* R4-A capture-only receiver: R0b front end + weak mutual coupling to a
* floating L_H + B_SET loop.  No C_ON, no B_OUT, no output JJ, no reset path.
* Winding polarity: K sign frozen so the raw read1 negative I(L_TX) lobe is
* additive to the +3 uA B_SET bias (preregistered additive orientation).
.subckt R4A_SOURCE_CAPTURE IN

* Canonical SL -> R_IN -> L_TX -> B_TRIG front end, unchanged from R0b/R3-A.
R_IN          IN          N_PICK      12.0
L_TX          N_PICK      N_TRIG       0.20p
B_TRIG        N_TRIG      0            jjmit area=0.50
I_TRIG_BIAS   0           N_TRIG       pwl(0p 0 2p 15U 80p 15U 140p 15U 170p 15U)

* Floating capture loop: L_H in series with B_SET, closed on itself.
L_H           N_CAP1      N_CAP2       100p
B_SET         N_CAP2      N_CAP1       jjmit area=0.05
I_SET_BIAS    N_CAP2      N_CAP1       pwl(0p 0 2p 3U 80p 3U 140p 3U 170p 3U)

K_TX_LH       L_TX        L_H          -0.80

.ends R4A_SOURCE_CAPTURE
